US04070457
To an ice-cooled suspension of 1.0 g of N2 -(2-naphthalenesulfonyl)-L-arginyl-N-butylglycine in 15 ml of ethanol was added dropwise 0.5 ml of thionyl chloride with vigorous stirring. The reaction mixture was allowed to stand for 2 hours at room temperature and then refluxed for 2 hours. At the end of this period, the reaction mixture was evaporated to dryness, and the residual syrup was treated with cold ethyl ether to give 1.02 g (90%) of N2 -(2-naphthalenesulfonyl)-L-arginyl-N-butylglycine ethyl ester hydrochloride in the form of a powder.

reactant | N2 (2-naphthalenesulfonyl)-L-arginyl-N-butylglycine | 1.0 g | N#N.C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CCCC
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | N2 (2-naphthalenesulfonyl)-L-arginyl-N-butylglycine ethyl ester hydrochloride | 1.02 g, 90% | N#N.Cl.C(C)OC(CN(CCCC)C([C@@H](NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)CCCNC(N)=N)=O)=O | InChI=1S/C24H35N5O5S.ClH.N2/c1-3-5-15-29(17-22(30)34-4-2)23(31)21(11-8-14-27-24(25)26)28-35(32,33)20-13-12-18-9-6-7-10-19(18)16-20;;1-2/h6-7,9-10,12-13,16,21,28H,3-5,8,11,14-15,17H2,1-2H3,(H4,25,26,27);1H;/t21-;;/m0../s1
